US07060827B2
A dry reaction flask equipped with a reflux condenser, N2 inlet and a magnetic stirring bar was charged with 3-nitrophenol (76.45 g, 550 mmol), K2CO3 (76.45 g, 550 mmol) and dry acetone (500 mL) under N2 atmosphere. To this at room temperature was added ethyl bromoacetate (55.44 mL, 500 mmol) over a period of 15 min. The reaction mixture was refluxed for 16 h, cooled and poured over ice-water (4 Kg). The resulting aqueous solution was extracted with CH2Cl2 (3×500 mL), dried over anhydrous Na2SO4 and solvent was removed to obtain 103 g(92%) of the desired ethyl 4-nitrophenoxyacetate. 1H NMR (CDCl3): δ 8.20 (d, 2H, J=8.2 Hz), 6.95 (d, 2H, J=8.1 Hz), 4.72 (s, 2H), 4.25 (q, 2H), 1.23 (t, 3H); LCMS: ret. time: 27.07 min.; purity: 100%; MS: 267 (M+ acetonitrile).

reactant | 3-nitrophenol | 550 mmol, 76.45 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | K2CO3 | 550 mmol, 76.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 500 mmol, 55.44 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | ethyl 4-nitrophenoxyacetate | 103 g, 92% | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC)C=C1 | C10H11NO5
